Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Dyspnea, chest pain
 
Major Surgical or Invasive Procedure:
___ Bundle-His pacemaker placement 

 
History of Present Illness:
___ M transferred from ___ with chest pain associated with 
dyspnea
for ___ days.  The pain is left sided and radiates down his left
arm and left lower chest, non pleuritic in nature.  He
subsequently had developed dizziness.  Believes he was having
lower extremity edema.  

At ___ he was found to be in new 3rd degree AV block and
hypertensive.  Troponin I 0.059.  He was transferred for 
emergent
pacemaker placement.  He then went directly for Bundle-His
pacemaker placement placed without complications.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- T2DM Diabetes  
- Hypertension  
- Dyslipidemia?  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: His-Bundle pacemaker ___
3. OTHER PAST MEDICAL HISTORY  
?COPD
Tobacco dependence
___ knee replacements
L. femur ORIF ___?
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
ADMISSION EXAM:
===============
VS: 97.5F, 60, 178/80, 18, 93% on RA, FSBG 97.
GENERAL Elderly man in NAD. Mood, affect appropriate.  
HEENT: PERRLA, EOMI.  Conjunctiva were pink, no pallor or
cyanosis of the oral mucosa.  
NECK: Supple.   
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: Inspiratory breath sounds transmitted from the upper
airways appreciated across anterior and posterior fields.  ___
posterior wheezes with late expiration.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. RLE with hypopigmentation and chronic 
scar
on ankle/shin.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE EXAM:
===============
VS: T 98.1 BP 153/69 HR 61 RR 17 O2 94% RA
GENERAL: Elderly man, resting comfortably in bed in NAD
HEENT: NC/AT, EOMI, anicteric sclera, MMM
NECK: Supple, no JVD
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: Course breath sounds throughout with scattered expiratory
wheezes
ABDOMEN: Soft, non-tender, non-distended, active bowel sounds, 
no
organomegaly 
EXTREMITIES: No cyanosis, clubbing, or edema, RLE with
hypopigmentation and chronic scar on ankle/shin 
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:28AM   ___ PTT-27.2 ___
___ 11:28AM   PLT COUNT-443*
___ 11:28AM   NEUTS-58.7 ___ MONOS-11.5 EOS-2.7 
BASOS-0.3 IM ___ AbsNeut-6.83* AbsLymp-3.08 AbsMono-1.34* 
AbsEos-0.31 AbsBaso-0.04
___ 11:28AM   WBC-11.6* RBC-3.88* HGB-10.4* HCT-32.7* 
MCV-84 MCH-26.8 MCHC-31.8* RDW-19.7* RDWSD-60.1*
___ 11:28AM   TSH-1.3
___ 11:28AM   CALCIUM-9.3 PHOSPHATE-2.8 MAGNESIUM-1.7
___ 11:28AM   cTropnT-<0.01
___ 11:28AM   estGFR-Using this
___ 11:28AM   GLUCOSE-118* UREA N-23* CREAT-0.8 SODIUM-143 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-25 ANION GAP-14
___ 11:32AM   LACTATE-1.4
___ 12:47PM URINE  MUCOUS-RARE*
___ 12:47PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 12:47PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 12:47PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:47PM URINE  UHOLD-HOLD
___ 12:47PM URINE  HOURS-RANDOM
___ 07:50PM   PLT COUNT-403*
___ 07:50PM   WBC-10.3* RBC-3.80* HGB-10.2* HCT-31.7* 
MCV-83 MCH-26.8 MCHC-32.2 RDW-19.3* RDWSD-58.3*
___ 07:50PM   CALCIUM-8.9 PHOSPHATE-3.0 MAGNESIUM-1.4*
___ 07:50PM   GLUCOSE-130* UREA N-16 CREAT-0.7 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-24 ANION GAP-13

DISCHARGE LABS:
===============
___ 06:55AM BLOOD WBC-11.1* RBC-4.02* Hgb-10.7* Hct-33.2* 
MCV-83 MCH-26.6 MCHC-32.2 RDW-19.0* RDWSD-57.1* Plt ___
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-103* UreaN-15 Creat-0.6 Na-137 
K-4.5 Cl-100 HCO3-26 AnGap-11
___ 06:55AM BLOOD Calcium-9.2 Phos-3.2 Mg-2.0

MICROBIOLOGY:
=============
___ Blood cx: pending
___ Urine cx: pending
___ Lyme serology: pending

IMAGING/DIAGNOSTICS:
====================
___ CXR:
IMPRESSION:  
No acute cardiopulmonary process. 

___ EP PROCEDURE REPORT:
Dual chamber ___ ___ Advisa MRI cimpabible) implanted via 
left cephalic vein with V lead in His bundle position 
(nonselective HB capture) without complications.

___ CXR:
IMPRESSION:  
Left-sided pacemaker ___ been placed with leads projecting to 
the right atrium and right ventricle.  Cardiomediastinal 
silhouette is stable.  There is no pleural effusion.  No 
pneumothorax is seen.  There is no evidence of congestive heart 
failure. 

___ Pacemaker interrogation:
Device Status (Implanted: ___
Battery Voltage (RRT=2.83V) 3.12 V (___)
Remaining Longevity Initializing
___ RV
Lead Impedance 551 ohms 532 ohms
Capture Threshold 0.250 V @ 0.40 ms 0.500 V @ 0.40 ms
___ On ___
In-Office Threshold 0.25 V @ 0.40 ms
___ Width 3.50 V / 0.40 ms 3.50 V / 0.40 
ms
___/ R Wave 2.6 mV - - -
Programmed Sensitivity 0.30 mV 4.00 mV
Parameter Summary
___ DDD Lower Rate ___ ms
___ Switch ___ bpm Sensed AV 150 ms
___ 130 bpm
Detection Rates Therapies
AT/AF Monitor >171 bpm All Rx Off
VT Monitor >150 bpm
Changes This Session Session Start Current Value
No parameters have been changed during the current session.

 
Brief Hospital Course:
Mr. ___ is a ___ with T2DM, ?COPD, and ___ 
transferred from ___ with new 3rd degree heart block s/p 
His-bundle PPM placement with improvement in symptoms and 
vitals.

#PUMP: EF 60% 
#CORONARIES: Unknown
#RHYTHM: PACED at 60 BPM

ACTIVE ISSUES: 
==============
# Third degree AV block s/p His-bundle PPM placement
Patient presented with dyspnea that was likely in the setting of 
___ deg. heart block seen on ECG at outside 
hospital. Etiology was unclear; infectious workup was negative 
to date and lyme serology was sent (pending at time of 
discharge). Patient had His-Bundle PPM on ___ with improvement 
in symptoms. Chest X-ray ___ showed leads appropriately placed 
with no acute cardiopulmonary processes. The device was 
interrogated on ___ and had no problems. Patient will follow 
up in device clinic in 1 week with EP follow up in 1 month.

# Hypertension
Patient presented with hypertension with SBP to 170s. Etiology 
thought likely secondary to bradycardia-induced hypertension 
versus medication compliance issues. Notably, the patient ___ a 
history of uncontrolled hypertension in the outpatient setting, 
with challenges in filling his medications that could have 
contributed to his presenting hypertension. He was treated with 
amlodipine 10mg, lisinopril 20mg, and metoprolol succinate 
12.5mg daily. 

# Social issues
Patient lives at ___ in ___ and receives 
visiting nursing services. Social work was consulted to ensure 
the patient would be able to make follow up appointments for his 
new pacemaker, and they were able to obtain resources for the 
patient to ensure his follow up. 

CHRONIC ISSUES:
===============
#T2DM
Recorded history of T2DM. Recent serum glucose at ___ ___ 
was 156. Not written for home hypoglycemic agents. Treated with 
sliding scale insulin while in house. 

TRANSITIONAL ISSUES:
====================
[ ] New medications: Keflex ___ PO q6hrs for 2 days 
[ ] Follow-up lyme serology
[ ] Patient was hypertensive during his admission. Please follow 
up blood pressure in OP setting to determine if BP medications 
need to be adjusted 
[ ] It is very important that the patient follows up in device 
clinic in 1 week - social work obtained ___ and cash 
for the patient to make it to his appointment, please ensure 
follow-up happens 

#CODE STATUS: FC (presumed)
#CONTACT: ___ (son) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 
2. amLODIPine 10 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Levofloxacin 500 mg PO Q24H 
6. Lisinopril 20 mg PO DAILY 
7. Metoprolol Succinate XL 12.5 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Nicotine Patch 14 mg TD DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO/NG Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth q6hrs Disp #*8 
Capsule Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing  
3.  amLODIPine 10 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
6.  Lisinopril 20 mg PO DAILY  
7.  Metoprolol Succinate XL 12.5 mg PO DAILY  
8.  Nicotine Patch 14 mg TD DAILY  
9.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Third degree AV block

Secondary diagnosis:
- HTN
- DMII
- HLD
- Tobacco use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

Why were you admitted to the hospital?
- You were admitted to the hospital because you were feeling 
short of breath and were found to have a dangerous abnormal 
heart rhythm, called a third-degree atrioventricular block.

What was done for you in the hospital?
- You had a pacemaker placed for your abnormal heart rhythm.

What should you do when you go home?
- It is very important that you follow up in device clinic in 1 
week (information below). You should also follow up with the 
electrophysiology doctors ___ type of cardiology doctor that 
specializes in abnormal heart rhythms) in 1 month.
- You should continue taking all your medications, as 
prescribed. You were started on an antibiotic, called Keflex, to 
prevent infection of your new pacemaker. You should continue 
taking that for 2 more days. 

It was a pleasure taking care of you.

Sincerely,
Your ___ Team
 
Followup Instructions:
___